US07709496B2
(a) 8-(2-propen-1-yl)-2H-chromen-2-one
To a solution of 3-allylsalicylaldehyde (1.62 g, 10.0 mmol) in acetic anhydride (2 mL) in a 5 mL Emrys process vial was added Et3N (2.0 ml). The reaction was heated at 160° C. for 45 min in an Emrys Optimizer Microwave reactor then was cooled to RT. The reaction was diluted with 50 mL of ethyl acetate, the organic layer was washed with aqueous ammonium chloride, aqueous sodium chloride, dried (Na2SO4), and concentrated. Purification of the residue by flash chromatography on silica gel (gradient elution: 5% to 30% Ethyl acetate/Hexanes) yielded the title compound (750 mg, 40%) as a colorless oil: MS (ES) m/e 186.9 (M+H)+.

reactant | 3-allylsalicylaldehyde | 10.0 mmol, 1.62 g | C(C=C)C1=C(C(C=O)=CC=C1)O | C10H10O2
reactant | Et3N | 2.0 ml | CCN(CC)CC | C6H15N
reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 8-(2-propen-1-yl)-2H-chromen-2-one | 750 mg, 40% | C(C=C)C=1C=CC=C2C=CC(OC12)=O | C12H10O2
